US05998452
In benzene (500 ml) were suspended 3,5-di-tert-butyl-4-hydroxybenzaldehyde (50.0 g) and β-alanine (20.0 g) under a nitrogen atmosphere. A Dean-Stark trap was fitted to the reactor, and the suspension was refluxed for 1 hour. After allowing the mixture to cool, α-mercaptoacetic acid (23.6 g) was added, then the mixture was further refluxed for 24 hours. After removal of benzene by evaporation, water (500 ml) was added to the residue, and the mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (eluent; chloroform-methanol, 98:2) to afford 54.6 g (67%) of 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-(2-carboxyethyl)-1,3-thiazolidin-4-one as colorless crystals. mp 164-165° C. NMR (CDCl3, 200 MHz) δ: 1.42 (18H, s), 2.2-2.5 (1H, m), 2.5-2.8 (1H, m), 3.0-3.3 (1H, m), 3.5-4.0 (3H, m), 5.33 (1H, s), 5.64 (1H, s), 7.09 (2H, s), 8.5 (1H, brs)

reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 50.0 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | β-alanine | 20.0 g | NCCC(=O)O | C3H7NO2
reactant | α-mercaptoacetic acid | 23.6 g | SCC(=O)O | C2H4O2S
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-(2-carboxyethyl)-1,3-thiazolidin-4-one | 54.6 g, 67% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1SCC(N1CCC(=O)O)=O | C20H29NO4S
